US09278996B2
(S)-t-butyl 4-formylthiazolidine-3-carboxylate (IV-6)
With the exception that (R)-t-butyl-4-(hydroxymethyl)thiazolidine-3-carboxylate, instead of N-t-butoxycarbonyl-L-prolinol, the same procedure as in Preparation Example 1-1 was repeated to afford the title compound. 9.21 g (44%).

reactant | (R)-t-butyl-4-(hydroxymethyl)thiazolidine-3-carboxylate | C(C)(C)(C)OC(=O)N1CSC[C@H]1CO | C9H17NO3S
reactant | N-t-butoxycarbonyl-L-prolinol | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
product | (S)-t-butyl 4-formylthiazolidine-3-carboxylate | C(=O)[C@@H]1N(CSC1)C(=O)OC(C)(C)C | C9H15NO3S
